US07052742B1
4-(5-Undecyl-pyrimidin-2-yl)phenyl 3-propyloxy-isoxazole-5-carboxylate
4.9 g of 4-(5-undecyl-pyrimidin-2-yl)phenol, 1.7 g of 3-propyloxy-isoxazole-5-carboxylic acid (prepared as described by Xue et al., Bioorg. Med. Chem. Letters 8 (1998) 3499 by reacting methyl 3-hydroxy-isoxazole-5-carboxylate, which is commercially available, with 1-bromopropane at 60° C. in dimethylformamide/potassium carbonate followed by hydrolysis with LiOH in tetrahydrofuran) and 2.1 g of dicyclohexylcarbodiimide are stirred for 24 h in 50 ml of dichloromethane at room temperature. Filtration, removal of the dichloromethane by distillation, purification by chromatography (silica gel; dichloromethane/heptane) and recrystallization from acetonitrile affords the target compound as colorless crystals having the phase sequence X 91 SA 109 N 126 I.

reactant | 4-(5-undecyl-pyrimidin-2-yl)phenol | 4.9 g | C(CCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C21H30N2O
reactant | 3-propyloxy-isoxazole-5-carboxylic acid | 1.7 g | C(CC)OC1=NOC(=C1)C(=O)O | C7H9NO4
reactant | methyl 3-hydroxy-isoxazole-5-carboxylate | OC1=NOC(=C1)C(=O)OC | C5H5NO4
reactant | 1-bromopropane | BrCCC | C3H7Br
reactant | LiOH | [Li+].[OH-]
reactant | dicyclohexylcarbodiimide | 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide potassium carbonate | CN(C=O)C.C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(5-Undecyl-pyrimidin-2-yl)phenyl 3-propyloxy-isoxazole-5-carboxylate | C(CC)OC1=NOC(=C1)C(=O)OC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCCCC | C28H37N3O4
